US07041824B2
Stage 1: 2-chloro-N-(phenylmethyl)-1H-purin-6-amine
189 mg of 2,6-dichloropurine, 4 ml of butanol and 0.12 ml (1.1 mol) of benzylarnine are mixed at room temperature and the medium is heated at a temperature of 75° C. for 5 hours and then it is left at room temperature overnight.

reactant | 2,6-dichloropurine | 189 mg | ClC1=NC(=C2NC=NC2=N1)Cl | C5H2Cl2N4
reactant | benzylarnine | 1.1 mol, 0.12 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | butanol | 4 ml | C(CCC)O | C4H10O
product | 2-chloro-N-(phenylmethyl)-1H-purin-6-amine | ClC=1NC(=C2N=CN=C2N1)NCC1=CC=CC=C1 | C12H10ClN5
